US09278931B2
B) N-{4-[trans-2-aminocyclopropyl]phenyl}-3-(piperidin-1-yl)benzamide dihydrochloride
tert-Butyl{trans-2-[4-({[3-(piperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}carbamate (142 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure to give the title compound (121 mg).

reactant | tert-Butyl{trans-2-[4-({[3-(piperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}carbamate | 142 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC(=CC=C1)N1CCCCC1)=O | C26H33N3O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-{4-[trans-2-aminocyclopropyl]phenyl}-3-(piperidin-1-yl)benzamide dihydrochloride | 121 mg | Cl.Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)N1CCCCC1)=O | InChI=1S/C21H25N3O.2ClH/c22-20-14-19(20)15-7-9-17(10-8-15)23-21(25)16-5-4-6-18(13-16)24-11-2-1-3-12-24;;/h4-10,13,19-20H,1-3,11-12,14,22H2,(H,23,25);2*1H/t19-,20+;;/m0../s1
